US04436886
Preparation of 2-(4-bromophenyl)-5-bromobenzothiazole
A mixture of 20 g (0.083 mole) of 4-bromo-2-aminothiophenol hydrochloride and 270 g of deoxygenated polyphosphoric acid was heated at 70° C. for 4 hours. To this mixture was added a solution containing 22 g (0.11 mole) of p-bromobenzoic acid dissolved in 109 g of sulfolane. The reaction mixture was slowly heated to 200° C. and maintained at that temperature for 1 hour. After cooling, the reaction mixture was poured into a 1:1 water-methanol solution to precipitate the product. The light tan precipitate was filtered, washed with dilute ammonium hydroxide, washed with water, and then air dried. The 2-(4-bromophenyl)-5-bromobenzothiazole was recrystallized from toluene to give 24.5 g (80% of theoretical), m.p. 162°-163° C.

reactant | 4-bromo-2-aminothiophenol hydrochloride | 0.083 mole, 20 g | Cl.BrC1=CC(=C(C=C1)S)N
reactant | p-bromobenzoic acid | 0.11 mole, 22 g | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
reactant | water methanol | O.CO
solvent | sulfolane | 109 g | S1(=O)(=O)CCCC1 | C4H8O2S
product | 2-(4-bromophenyl)-5-bromobenzothiazole | BrC1=CC=C(C=C1)C=1SC2=C(N1)C=C(C=C2)Br | C13H7Br2NS
